US06599902B2
Synthesis of 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (1-Methyl-piperidin-4-ylmethyl)-amide
To a solution of 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid [1,2,3]triazolo[4,5-b]pyridin-3-yl ester (300 mg, 0.48 mmol), DIPEA (136 mg, 2.2 eq.) and C-(1-methyl-piperidin-4-yl)-methylamine TFA salt (186 mg, 1.1 eq.) in DMF (5 mL) was stirred at rt for 72 hours. The reaction was concentrated, diluted with DCM, washed with sat.NaHCO3 and water, concentrated and purified on a silica gel column to give the titled compound as an orange solid.

reactant | 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid [1,2,3]triazolo[4,5-b]pyridin-3-yl ester | 0.48 mmol, 300 mg | N1=NN(C2=NC=CC=C21)OC(=O)C2=C(NC(=C2C)\C=C\2/C(NC1=CC=C(C=C21)S(=O)(=O)CC2=C(C=CC=C2Cl)Cl)=O)C | C28H20Cl2N6O5S
reactant | DIPEA | 136 mg, 2.2 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | C-(1-methyl-piperidin-4-yl)-methylamine TFA salt | 186 mg, 1.1 eq. | OC(=O)C(F)(F)F.CN1CCC(CC1)CN
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (1-Methyl-piperidin-4-ylmethyl)-amide | CN1CCC(CC1)CNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C | C30H32Cl2N4O4S
